US07129249B2
Methyl(3-amino-2-oxo-3,4-dihydroquinolin-1 (2H)-yl)acetate
Sodium hydride (60% in oil, 2.52 g, 63.0 mmol) was added to 3-amino-3,4-dihydroquinolin-2(1H)-one hydrochloride (J. Med. Chem., 28, 1985, 1511–16; 5.0 g, 25.2 mmol), in anhydrous DMF (100 mL) at 0° C. over a period of 5 min keeping the internal temperature at <10° C. The reaction was stirred for a further 30 min before addition of methyl bromoacetate (2.85 mL, 30.2 mmol), then stirred for a further 60 min. The reaction was quenched by addition of 1M aqueous HCl (5 mL) and the volatiles were removed by evaporation. The residue was dissolved in DCM (250 mL) and washed with sat. aqueous NaHCO3 (100 mL) and the organic layer was dried (MgSO4), filtered and evaporated to yield the title compound (5.89 g, 25.2 mmol) as yellow paste which was used without further purification.

reactant | Sodium hydride | 63.0 mmol, 2.52 g | [H-].[Na+]
reactant | 3-amino-3,4-dihydroquinolin-2(1H)-one hydrochloride | 25.2 mmol, 5.0 g | Cl.NC1C(NC2=CC=CC=C2C1)=O
reactant | methyl bromoacetate | 30.2 mmol, 2.85 mL | BrCC(=O)OC | C3H5BrO2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | Methyl(3-amino-2-oxo-3,4-dihydroquinolin-1 (2H)-yl)acetate | 25.2 mmol, 5.89 g | COC(CN1C(C(CC2=CC=CC=C12)N)=O)=O | C12H14N2O3
